US04463005
A solution of ethyl (4-hydroxy-2-methylpyrimid-6-yl)acetate (0.38 g.) in isopropanol (10 ml.) was heated under reflux and treated with sodium borohydride (0.2 g.). The mixture was heated under reflux for 4 hours with the addition of two further portions (0.1 g.) of sodium borohydride after 2 and 3 hours. The mixture was evaporated to dryness and the residue was partitioned between water and ether. The aqueous phase was acidifed with HOAc and then extracted with EtOAc in a continuous extractor for 24 hours. The extract was dried and then evaporated to dryness to give 4-hydroxy-6-(2-hydroxyethyl)-2-methylpyrimidine (0.15 g.) which was used without further purification.

reactant | ethyl (4-hydroxy-2-methylpyrimid-6-yl)acetate | 0.38 g | OC1=NC(=NC(=C1)CC(=O)OCC)C | C9H12N2O3
reactant | sodium borohydride | 0.2 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.1 g | [BH4-].[Na+]
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 4-hydroxy-6-(2-hydroxyethyl)-2-methylpyrimidine | 0.15 g | OC1=NC(=NC(=C1)CCO)C | C7H10N2O2
